US04382949
A solution of bis-N-acetyl D-cystine (3.2 g) in acetone (30 ml) containing triethylamine (4.0 g) is stirred with allyl bromide (4 ml) for 24 hours. The mixture is diluted with water, washed with 1 N sodium hydroxide, 1 N hydrochloric acid, brine, dried over sulfate and evaporated to afford bis N-acetyl-D-cystine bis allyl ester. Treatment of this bis compound accoding to the procedure of Preparation I affords the title compound.

reactant | bis-N-acetyl D-cystine | 3.2 g | C(C)(=O)N[C@H](CSSC[C@H](C(=O)O)NC(C)=O)C(=O)O | C10H16N2O6S2
reactant | triethylamine | 4.0 g | C(C)N(CC)CC | C6H15N
reactant | allyl bromide | 4 ml | C(C=C)Br | C3H5Br
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | bis N-acetyl-D-cystine bis allyl ester | C(C=C)OC([C@@H](CSSC[C@H](C(=O)OCC=C)NC(C)=O)NC(C)=O)=O | C16H24N2O6S2
